### PR TITLE
[Merged by Bors] - feat(CategoryTheory/Monoidal/PushoutProduct): isomorphisms and lifting properties of pushout-products

### PR DESCRIPTION
**Pull request by mckoen**
Defines various isomorphisms of pushout-products.

Defines an isomorphism in the arrow category of `SSet` between the canonical inclusion  `(S.unionProd T).toSSet ⟶ X ⊗ Y` and the pushout-product `S.ι □ T.ι`.

Proves various equivalent lifting properties involving pushout-products

- [x] depends on: #37182
- [x] depends on: #33935

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Monoidal/Closed/Cartesian.lean [hunk 1]
```diff
@@ -98,6 +98,64 @@ def powZero [BraidedCategory C] {I : C} (t : IsInitial I) [MonoidalClosed C] : I
...
+initial object. -/
+@[simps]
+noncomputable def MonoidalCategory.Limits.pushout.isInitialWhiskerLeftIso
+    [HasPushouts C] [CartesianMonoidalCategory C] [MonoidalClosed C]
+    {A B : C} (f : A ⟶ B) {I : C} (i : IsInitial I) {W : C} :
+    pushout (f ▷ I) (A ◁ i.to W) ≅ A ⊗ W where
+  hom := pushout.desc ((i.ofIso (zeroMul i).symm).to _) (𝟙 _)
+    ((i.ofIso (zeroMul i).symm).hom_ext _ _)
+  inv := pushout.inr _ _
+  hom_inv_id := pushout.hom_ext ((i.ofIso (zeroMul i).symm).hom_ext _ _) (by simp)
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Monoidal/Closed/Cartesian.lean]: Do you really need the explicit `Iso` with `pushout` here? Would it not be sufficient to inline the pushout squares when we need it? (and then, we have `IsPushout.isoPushout` when we need it)

e.g.
```lean
lemma MonoidalCategory.Limits.IsPushout.whiskerLeft_isInitial
    [MonoidalClosed C]
    {A B : C} (f : A ⟶ B) {I : C} (i : IsInitial I) {W : C} :
    IsPushout (f ▷ I) (A ◁ i.to W) ((i.ofIso (zeroMul i).symm).to _) (𝟙 _) :=
  haveI : IsIso (f ▷ I) :=
    Limits.isIso_of_isInitial (i.ofIso (zeroMul i).symm) (i.ofIso (zeroMul i).symm) _
  .of_horiz_isIso (sq := ⟨by apply (i.ofIso (zeroMul (A := A) i).symm).hom_ext⟩)
```
which could also be considered short enough to be inlined in proofs

File: Mathlib/CategoryTheory/Monoidal/PushoutProduct.lean [hunk 2]
```diff
@@ -194,7 +195,51 @@ end Monoidal
...
+noncomputable section
+
+set_option backward.isDefEq.respectTransparency false in
+/-- The arrow isomorphism `X □ (∅ ⟶ W) ≅ X ▷ W` in a CCC with pushouts and an
+initial object. -/
+@[simps!]
+def isInitialIso (X : Arrow C) {I : C} (i : IsInitial I) {W : C} :
+    (X □ i.to W) ≅ Arrow.mk (X.hom ▷ W) :=
+  Arrow.isoMk' _ _ (Limits.pushout.isInitialWhiskerLeftIso X.hom i) (Iso.refl _)
+    (pushout.hom_ext ((i.ofIso (zeroMul i).symm).hom_ext _ _) (by simp))
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Monoidal/PushoutProduct.lean:212]: FWIW, inlining the pushouts squares here gives
```suggestion
@[simps!]
def isInitialIso (X : Arrow C) {I : C} (i : IsInitial I) {W : C} :
    (X □ i.to W) ≅ X.hom ▷ W :=
  haveI : IsIso (X.hom ▷ I) :=
    Limits.isIso_of_isInitial (i.ofIso (zeroMul i).symm) (i.ofIso (zeroMul i).symm) _
  haveI : IsPushout (X.hom ▷ I) (_ ◁ i.to W) ((i.ofIso (zeroMul i).symm).to _) (𝟙 _) :=
    .of_horiz_isIso (sq := ⟨(i.ofIso (zeroMul i).symm).hom_ext ..⟩)
  Arrow.isoMk' _ _ this.isoPushout.symm (Iso.refl _)
    (pushout.hom_ext ((i.ofIso (zeroMul i).symm).hom_ext _ _) (by simp))
```
which is slightly longer but avoids the extra declarations etc.

File: Mathlib/CategoryTheory/LiftingProperties/PushoutProduct.lean [hunk 3]
```diff
@@ -0,0 +1,130 @@
...
+
+/-- `(∅ ⟶ B) □ g` lifts against `X ⟶ ⋆` if and only if `g` lifts against `(B ⟹ X) ⟶ ⋆`. -/
+lemma hasLiftingProperty_mk_isInitial_isTerminal_iff [HasPushouts C] [HasPullbacks C]
+    [CartesianMonoidalCategory C] [MonoidalClosed C] [BraidedCategory C]
+    {A B K L X Y : C} {g : K ⟶ L}
+    (i : IsInitial A) (t : IsTerminal Y) :
+    HasLiftingProperty (i.to B □ g).hom (t.from X) ↔
+      HasLiftingProperty g (t.from ((ihom B).obj X)) := by
+  rw [hasLiftingProperty_mk_isInitial_iff]
+  have : (ihom B).IsRightAdjoint := Closed.adj.isRightAdjoint
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/LiftingProperties/PushoutProduct.lean]: I think it would make sense to have a global `IsRightAdjoint` instance here (there is already a global `IsLeftAdjoint (tensorLeft A)` instance when `A` is closed).

**Review by robin-carlier — COMMENTED** [review]
A few comments: I think the biggest question is wether we want to record all the intermediate isos as separate `defs` like currently or just inline them using `IsPushout.isoPushout` when we need them. I guess this reduces to the question of whether these rather specific isomorphisms are useful beyond their use in proving equivalences of certain lifting properties.

File: Mathlib/CategoryTheory/LiftingProperties/PushoutProduct.lean (hunk 3 above)
Comment (mckoen) [reply Mathlib/CategoryTheory/LiftingProperties/PushoutProduct.lean]: I decided to remove the intermediate isos and inlined them instead. I couldn't think of any other uses for them. I also added an `IsRightAdjoint` instance at the top of the main `PushoutProduct` file, because it helped to prove one of the inline isos there. Thanks, Robin!

File: Mathlib/CategoryTheory/Monoidal/PushoutProduct.lean [hunk 4]
```diff
@@ -52,6 +52,10 @@ open Limits MonoidalCategory Functor PushoutObjObj
 variable {C : Type u} [Category.{v} C]
 
 attribute [local simp] PushoutObjObj.ι ofHasPushout_pt ofHasPushout_inl ofHasPushout_inr
+  PullbackObjObj.ofHasPullback_π
+
+instance [MonoidalCategory C] (A : C) [Closed A] : (ihom A).IsRightAdjoint :=
+  (ihom.adjunction A).isRightAdjoint
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/Monoidal/PushoutProduct.lean]: This should live in the file where `ihom.adjunction` is defined.

File: Mathlib/CategoryTheory/Monoidal/PushoutProduct.lean [hunk 5]
```diff
@@ -194,7 +198,59 @@ end Monoidal
 
 section CartesianMonoidalClosed
 
-variable [HasInitial C] [CartesianMonoidalCategory C] [MonoidalClosed C]
+variable [CartesianMonoidalCategory C] [MonoidalClosed C]
+
+noncomputable section
+
+set_option backward.isDefEq.respectTransparency false in
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/Monoidal/PushoutProduct.lean]:
```suggestion
```

File: Mathlib/CategoryTheory/Monoidal/PushoutProduct.lean [hunk 6]
```diff
@@ -194,7 +198,59 @@ end Monoidal
...
+def isInitialIso (X : Arrow C) {I : C} (i : IsInitial I) {W : C} :
+    (X □ i.to W) ≅ X.hom ▷ W :=
+  haveI : IsIso (X.hom ▷ I) :=
+    isIso_of_isInitial (i.ofIso (zeroMul i).symm) (i.ofIso (zeroMul i).symm) _
+  haveI : IsPushout (X.hom ▷ I) (_ ◁ i.to W) ((i.ofIso (zeroMul i).symm).to _) (𝟙 _) :=
+    .of_horiz_isIso (sq := ⟨(i.ofIso (zeroMul i).symm).hom_ext ..⟩)
+  Arrow.isoMk' _ _ this.isoPushout.symm (Iso.refl _)
+    (pushout.hom_ext ((i.ofIso (zeroMul i).symm).hom_ext _ _) (by simp))
+
+set_option backward.isDefEq.respectTransparency false in
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/Monoidal/PushoutProduct.lean]:
```suggestion
```

File: Mathlib/CategoryTheory/LiftingProperties/PushoutProduct.lean [hunk 7]
```diff
@@ -0,0 +1,128 @@
...
+
+/-- `(∅ ⟶ B) □ g` lifts against `X ⟶ Y` if and only if `g` lifts against `B ⟹ X ⟶ B ⟹ Y`. -/
+lemma hasLiftingProperty_mk_isInitial_iff [HasPushouts C] [HasPullbacks C]
+    [CartesianMonoidalCategory C] [MonoidalClosed C] [BraidedCategory C]
+    {A B K L X Y : C} {g : K ⟶ L} {h : X ⟶ Y}
+    (i : IsInitial A) :
+    HasLiftingProperty (i.to B □ g).hom h ↔
+      HasLiftingProperty g ((ihom B).map h) := by
+  change HasLiftingProperty (ofHasPushout ..).ι _ ↔ _
+  rw [HasLiftingProperty.iff_of_arrow_iso_left (isInitialIso' _ _)]
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/LiftingProperties/PushoutProduct.lean]: I think it’s better to avoid `change` when possible
```suggestion
  dsimp
  have := HasLiftingProperty.iff_of_arrow_iso_left (isInitialIso' g i (W := B)) h
  rw [dsimp% this]
```
I have to admit I’m a bit lost as to why `rw [dsimp% HasLiftingProperty.iff_of_arrow_iso_left (isInitialIso' g i (W := B)) h] does not work... (it seems it gets stuck on `(Arrow.mk g).hom`).

File: Mathlib/AlgebraicTopology/SimplicialSet/PushoutProduct.lean [hunk 8]
```diff
@@ -0,0 +1,45 @@
...
+namespace unionProd
+
+set_option backward.isDefEq.respectTransparency false in
+/-- The inclusion `(S.unionProd T).toSSet ⟶ X ⊗ Y` is isomorphic to the pushout-product
+`S.ι □ T.ι`. -/
+@[simps! -isSimp]
+noncomputable
+def ιIso : Arrow.mk (S.unionProd T).ι ≅ S.ι □ T.ι :=
+  Arrow.isoMk' _ _ (isPushout S T).isoPushout (Iso.refl _)
+    (by apply (unionProd.isPushout S T).hom_ext <;> simp [Functor.PushoutObjObj.ofHasPushout_ι])
```
Comment (robin-carlier) [inline Mathlib/AlgebraicTopology/SimplicialSet/PushoutProduct.lean]:
```suggestion
    (by
      apply (unionProd.isPushout S T).hom_ext <;>
      simp [Functor.PushoutObjObj.ofHasPushout, Functor.PushoutObjObj.ι])
```
This proof lets you remove the `set_option backward.isDefEq.respectTransparency false`.

**Review by robin-carlier — COMMENTED** [review]
LGTM, modulo two minor comments

File: Mathlib/CategoryTheory/LiftingProperties/PushoutProduct.lean [hunk 9]
```diff
@@ -0,0 +1,129 @@
...
+`f □ g` lifts against `h` if and only if `g` lifts against `f ⋔ h`.
+
+Special cases are considered when any of `A = ∅`, `K = ∅`, or `Y = ⋆` are true.
+
+## References
+
+* [Charles Rezk, *Introduction to Quasi-categories*, Proposition 21.5][Rezk2022]
+-/
+
+@[expose] public section
```
Comment (jcommelin) [inline Mathlib/CategoryTheory/LiftingProperties/PushoutProduct.lean]:
```suggestion
public section
```

This file contains only lemmas, so no need to have the `@[expose]` attribute.

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors d+
